US09062032B2
By using 180 mg of methyl 2,2-dimethyl-5-oxo-5-[pentan-3-yl(3-{[3-({4-[3-(piperazin-1-yl)propyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}benzyl)amino]pentanoate and 0.06 mL of a 37% aqueous formalin solution, the reaction similar to Preparation Example 14 was performed, thereby obtaining 152 mg of methyl 2,2-dimethyl-5-[(3-{[3-({4-[3-(4-methylpiperazin-1-yl)propyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}benzyl)(pentan-3-yl)amino]-5-oxopentanoate.

reactant | methyl 2,2-dimethyl-5-oxo-5-[pentan-3-yl(3-{[3-({4-[3-(piperazin-1-yl)propyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}benzyl)amino]pentanoate | 180 mg | CC(C(=O)OC)(CCC(N(CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCCN1CCNCC1)=O)CCCC2)=O)C(CC)CC)=O)C | C43H59N5O5S
reactant | formalin | C=O | CH2O
product | methyl 2,2-dimethyl-5-[(3-{[3-({4-[3-(4-methylpiperazin-1-yl)propyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}benzyl)(pentan-3-yl)amino]-5-oxopentanoate | 152 mg | CC(C(=O)OC)(CCC(=O)N(C(CC)CC)CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCCN1CCN(CC1)C)=O)CCCC2)=O)C | C44H61N5O5S
